US04958026
19.8 g of N,N-dimethyl-N-[2-(3-methoxy-4nitrophenyl)ethenyl]amine and 30.0 g of hydroxylamineorthosulfonic acid are reacted as described in connection with preparing 2-(7-nitro-1H-indazol-4-yl)acetonitrile, thus obtaining 17.0 g of (3-methoxy-4-nitrophenyl)acetonitrile, mp 85°-86.5° C.

reactant | N,N-dimethyl-N-[2-(3-methoxy-4nitrophenyl)ethenyl]amine | 19.8 g | CN(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C11H14N2O3
reactant | 2-(7-nitro-1H-indazol-4-yl)acetonitrile | [N+](=O)([O-])C=1C=CC(=C2C=NNC12)CC#N | C9H6N4O2
product | (3-methoxy-4-nitrophenyl)acetonitrile | 17.0 g | COC=1C=C(C=CC1[N+](=O)[O-])CC#N | C9H8N2O3
